US04140775
In the manner given in Example 1B, 1-(4-methylphenyl)-4-[1-(4-nitrophenyl)ethyl]piperazine is reduced with aqueous titanium trichloride to give 1-(4-methylphenyl)-4-[1-(p-aminophenyl)ethyl]piperazine.

reactant | 1-(4-methylphenyl)-4-[1-(4-nitrophenyl)ethyl]piperazine | CC1=CC=C(C=C1)N1CCN(CC1)C(C)C1=CC=C(C=C1)[N+](=O)[O-] | C19H23N3O2
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 1-(4-methylphenyl)-4-[1-(p-aminophenyl)ethyl]piperazine | CC1=CC=C(C=C1)N1CCN(CC1)C(C)C1=CC=C(C=C1)N | C19H25N3
